US07582657B2
(2E)-N-(3,4-Dimethoxyphenyl)-3-[4-(tert-butyl)phenyl]prop-2-enamide.
To a 20 mL round-bottomed flask equipped with reflux condenser and drying tube was added 4-tert-butyl-trans-cinnamic acid (200 mg, 0.98 mmol, EMKA-Chemie) followed by CH2Cl2 (5 mL), oxalyl chloride (90 uL, 130 mg, 1.03 mmol, Aldrich) and DMF (1 uL). The reaction mixture was magnetically stirred and heated at reflux for 30 min. The reaction mixture was concentrated in vacuo and the residue dissolved in acetone (2 mL). The solution was added to a mixture of 3,4-dimethoxyaniline (180 mg, 1.17 mmol, Aldrich), potassium carbonate (200 mg), water (2 mL) and acetone (2 mL), magnetically stirred at 25° C. in a 10 mL glass vial. The reaction mixture was stirred at 25° C. for 16 h then diluted with EtOAc (60 mL) and washed successively with 1 N HCl (20 mL), 1 N NaOH (20 mL), water (20 mL) and satd NaCl (20 mL), dried over MgSO4, filtered and concentrated. Recrystallization from hexane and CH2Cl2 provided the title product as a yellow solid. MP 115-116° C. MS (ESI, pos. ion) m/z: 340 (M+1).

reactant | 4-tert-butyl-trans-cinnamic acid | 0.98 mmol, 200 mg | C(C)(C)(C)C1=CC=C(/C=C/C(=O)O)C=C1 | C13H16O2
reactant | oxalyl chloride | 1.03 mmol, 90 uL, 130 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,4-dimethoxyaniline | 1.17 mmol, 180 mg | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | potassium carbonate | 200 mg | C([O-])([O-])=O.[K+].[K+]
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
solvent | acetone | 2 mL | CC(=O)C | C3H6O
solvent | water | 2 mL | O | H2O
solvent | DMF | 1 uL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (2E)-N-(3,4-Dimethoxyphenyl)-3-[4-(tert-butyl)phenyl]prop-2-enamide | COC=1C=C(C=CC1OC)NC(\C=C\C1=CC=C(C=C1)C(C)(C)C)=O | C21H25NO3
